US07223791B2
To a solution (100 ml) of N-hydroxybenzenimidoyl chloride (2.25 g) and methyl 4-ethynylbenzoate (2.30 g) in tetrahydrofuran was added dropwise a solution (10 ml) of triethylamine (2.30 ml) in tetrahydrofuran under an argon atmosphere at 0° C. This mixture was stirred overnight at room temperature and poured into water. The mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was recrystallized from hexane-tetrahydrofuran to give methyl 4-(3-phenyl-5-isoxazolyl)benzoate (3.49 g, yield 87%) as colorless crystals. melting point: 205–206° C.

reactant | N-hydroxybenzenimidoyl chloride | 100 ml, 2.25 g | ON=C(C1=CC=CC=C1)Cl | C7H6ClNO
reactant | methyl 4-ethynylbenzoate | 2.30 g | C(#C)C1=CC=C(C(=O)OC)C=C1 | C10H8O2
reactant | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 4-(3-phenyl-5-isoxazolyl)benzoate | 3.49 g, yield 87% | C1(=CC=CC=C1)C1=NOC(=C1)C1=CC=C(C(=O)OC)C=C1 | C17H13NO3
